US04322414
Preparation of O-Ethyl S-Propyl O-(4-Nitroindan-1-on-7-yl) Thiophosphate
O-Ethyl S-propyl chlorothiophosphate (0.015 mole) dissolved in dry toluene (80) is charged into a glass reaction vessel equipped with a stirrer, thermometer and gas inlet tube. The solution is cooled to about 0° C. and a solution of 4-nitro-7-hydroxyindan-1-one (0.015 mole) and triethylamine (0.0175 mole) in toluene (20 ml) is slowly added with stirring. After the addition is completed the reaction mixture is allowed to warm to room temperature and stirring is continued for a period of about 8 hours. After this time the reaction mixture is filtered and the filtrate is washed with water. The washed solution is then dried and is stripped of solvent leaving a residue. This residue is chromatographed through a 200 ml clay column using ethyl acetate and hexane mixtures as the eluant. Ten separate fractions each containing increasing percentages of ethyl acetate are collected and analyzed by IR for the product. The appropriate fractions are then combined stripped of solvent and subjected to vacuum to yield the desired product, O-ethyl S-propyl O-(4-nitroindan-1-on-7-yl) thiophosphate.

reactant | O-Ethyl S-propyl chlorothiophosphate | 0.015 mole | P(=O)(OCC)(SCCC)Cl | C5H12ClO2PS
reactant | 4-nitro-7-hydroxyindan-1-one | 0.015 mole | [N+](=O)([O-])C1=C2CCC(C2=C(C=C1)O)=O | C9H7NO4
reactant | triethylamine | 0.0175 mole | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | O-ethyl S-propyl O-(4-nitroindan-1-on-7-yl) thiophosphate | P(=O)(OCC)(SCCC)OC=1C=CC(=C2CCC(C12)=O)[N+](=O)[O-] | C14H18NO6PS
